US06700001B2
Treatment of (2S)-4-[5-(benzyloxy)quinolin-6-yl]-2-hydroxybutyl 4-methylbenzene sulfonate with palladium on carbon (10 wt. %) in ethanol following the procedure described in Example 9 provides (2S)-2-hydroxy-4-(5-hydroxy-quinolin-6-yl)butyl 4-methylbenzenesulfonate.

reactant | (2S)-4-[5-(benzyloxy)quinolin-6-yl]-2-hydroxybutyl 4-methylbenzene sulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](CCC=1C(=C2C=CC=NC2=CC1)OCC1=CC=CC=C1)O | C27H27NO5S
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | (2S)-2-hydroxy-4-(5-hydroxy-quinolin-6-yl)butyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](CCC=1C(=C2C=CC=NC2=CC1)O)O | C20H21NO5S
